US07759387B2
Acetic acid 3-acetoxy-5-benzyloxy-phenyl ester
Water (4.3 ml, 236 mmol) in DMF (20 ml) was added drop wise at room temperature with stirring to a mixture of acetic acid 3,5-diacetoxy-phenyl ester (refer Kawamoto. H. et. al. Synth. Commun. 26, 531, 1996) (35 g, 139 mmol), NaH (5.66 g, 236 mmol) and benzyl chloride (19.16 ml, 166 mmol) in dry DMF (300 ml). The reaction mixture was stirred overnight (˜16 h), poured into chilled dil. aqueous HCl and extracted with CH2Cl2 to obtain the crude title compound which was purified using flash chromatography (silica gel, 20-50% CH2Cl2 in PE 60-80° C.). Yield, 12.5 g (30%), white solid; mp: 129-30° C.; MS (EI): 300 (M+), 258, 216, 91 (100%); analysis: C17H16O5 requires: C, 67.99; H, 5.37 found: C, 67.50; H, 5.40%.

reactant | Water | 236 mmol, 4.3 ml | O | H2O
reactant | acetic acid 3,5-diacetoxy-phenyl ester | 139 mmol, 35 g | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)OC(C)=O | C12H12O6
reactant | NaH | 236 mmol, 5.66 g | [H-].[Na+]
reactant | benzyl chloride | 166 mmol, 19.16 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | HCl | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Acetic acid 3-acetoxy-5-benzyloxy-phenyl ester | C(C)(=O)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)OC(C)=O | C17H16O5
